US04645771
A solution of 1-(3-chloro-4-hydroxybenzoyl)-1,2,3,6-tetrahydropyridine (13.6 g.) in hot, dry tetrahydrofuran (300 ml.) was added slowly to a stirred suspension of lithium aluminium hydride (5.44 g.) in dry tetrahydrofuran (100 ml.). The mixture was heated under reflux for 17 hours and then cooled. Water (5.5 ml.), 15% w/v aqueous sodium hydroxide solution (5.5 ml.) and water (15 ml.) were added successively and the mixture was stirred for 1 hour and then filtered. The filtrate was evaporated and water (100 ml.) added to the residue. The mixture was filtered and the filtrate was acidified to pH2 with concentrated hydrochloric acid, and cooled to 5° C. The crystalline precipitate which formed was separated, washed with water (20 ml.), then with acetone (20 ml.), and recrystallised from methanol-acetone to give 1-(3-chloro-4-hydroxybenzyl)-1,2,3,6-tetrahydropyridine hydrochloride (6.6 g.), m.p. 225°-231° C.

reactant | 1-(3-chloro-4-hydroxybenzoyl)-1,2,3,6-tetrahydropyridine | 13.6 g | ClC=1C=C(C(=O)N2CCC=CC2)C=CC1O | C12H12ClNO2
reactant | lithium aluminium hydride | 5.44 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 5.5 ml | O | H2O
reactant | sodium hydroxide | 5.5 ml | [OH-].[Na+]
reactant | water | 15 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-(3-chloro-4-hydroxybenzyl)-1,2,3,6-tetrahydropyridine hydrochloride | 6.6 g | Cl.ClC=1C=C(CN2CCC=CC2)C=CC1O | InChI=1S/C12H14ClNO.ClH/c13-11-8-10(4-5-12(11)15)9-14-6-2-1-3-7-14;/h1-2,4-5,8,15H,3,6-7,9H2;1H
